US04837217
Preparation of 2-t-butyl-4-chloro-5-{4-(2-methoxy-1-methyl-ethoxy)-benzylthio}-3(2H)-pyridazinone (Compound No. 504)
In 30 ml of 95% ethanol were dissolved 1.5 g of 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone and 1.8 g of 4-(2-methoxy-1-methylethoxy)-benzyl bromide, and thereto was added 0.48 g of powdery potassium hydroxide. The reaction mixture was stirred overnight at room temperature. Then, similarly to the procedures in Preparation Example 3, there was obtained 1.2 g of the aimed product, m.p. 51.0°~52.0° C.

reactant | 2-t-butyl-4-chloro-5-mercapto-3(2H)-pyridazinone | 1.5 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)S | C8H11ClN2OS
reactant | 4-(2-methoxy-1-methylethoxy)-benzyl bromide | 1.8 g | COCC(OC1=CC=C(CBr)C=C1)C | C11H15BrO2
reactant | potassium hydroxide | 0.48 g | [OH-].[K+]
solvent | ethanol | 30 ml | C(C)O | C2H6O
product | 2-t-butyl-4-chloro-5-{4-(2-methoxy-1-methyl-ethoxy)-benzylthio}-3(2H)-pyridazinone | 1.2 g | C(C)(C)(C)N1N=CC(=C(C1=O)Cl)SCC1=CC=C(C=C1)OC(COC)C | C19H25ClN2O3S
